US07842710B2
11.8 g (55.6 mmol) 1-[1-(isopropylthio)methyl]-2-nitrobenzene (VII-2) in 150 ml methanol are placed in a 500 ml three-necked flask equipped with a stirrer and thermometer, mixed with 150 ml concentrated hydrochloric acid with stirring, and 17.6 g powdered tin (148.5 mmol) are added in portions at 20-40° C. Stirring of the mixture wird is continued at 40° C. for about an hour. The reaction is cooled, filtered and mixed with 1300 ml of an ice-cooled 10% sodium hydroxide solution. Then it is extracted twice with dichloromethane, dried over sodium sulfate, and the solvent is evaporated under vacuum. The crude product is purified on silica gel with 3:1 hexane/methyl t-butyl ether. 4.6 g (94.6% purity by HPLC, 43.2% theoretical yield) of 2-[1-(isopropylthio)methyl]aniline are obtained as a yellow oil [logP (pH 2.3)=1.94].

reactant | 1-[1-(isopropylthio)methyl]-2-nitrobenzene | 55.6 mmol, 11.8 g | C(C)(C)SCC1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO2S
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | tin | 148.5 mmol, 17.6 g | [Sn] | Sn
solvent | methanol | 150 ml | CO | CH4O
product | 2-[1-(isopropylthio)methyl]aniline | 4.6 g | C(C)(C)SCC1=C(N)C=CC=C1 | C10H15NS
